US07276516B2
4-(3-Phenylindole-1-sulfonyl)-N-(tetrahydrofuran-3-ylmethyl)benzamide
Add benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (2.2 g, 5.0 mmol, 1.5 equiv) to a solution of 4-(3-phenyl-indole-1-sulfonyl)-benzoic acid (1.23 g, 3.26 mmol, 1 equiv), (tetrahydro-furan-3-yl)-methylamine (331 mg, 3.27 mmol, 1.0 equiv), and triethylamine (2.3 mL, 1.7 g, 17 mmol, 5.0 equiv) in anhydr CH2Cl2 (12 mL). After 1 h, rotary evaporate the reaction solution and transfer the resultant residue to a column of silica gel (235 mm×35 mm dia.) and elute (50-90% EtOAc/hex). This yields 486 mg (32.4%) of rac-4-(3-phenyl-indole-1-sulfonyl)-N-(tetrahydro-furan-3-ylmethyl)-benzamide as a yellow foam. MS (m/e): 460.96 (M+1); 459.04 (M−1).

reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 5.0 mmol, 2.2 g, 1.5 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-(3-phenyl-indole-1-sulfonyl)-benzoic acid | 3.26 mmol, 1.23 g, 1 equiv | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H15NO4S
reactant | (tetrahydro-furan-3-yl)-methylamine | 3.27 mmol, 331 mg, 1.0 equiv | O1CC(CC1)NC | C5H11NO
reactant | triethylamine | 17 mmol, 2.3 mL, 1.7 g, 5.0 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Phenylindole-1-sulfonyl)-N-(tetrahydrofuran-3-ylmethyl)benzamide | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2COCC2)C=C1 | C26H24N2O4S
